US08076482B2
Preparation of racemic (2′S, 3S, 4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(4,5-difluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one
A mixture of racemic (2′S, 3S, 4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(4,5-difluoro-2-methyl-phenyl) spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (40 mg, 0.067 mmol) and P2S5 (45 mg, 0.20 mmol) in THF (2 mL) was heated at 50° C. for 2 h, and then diluted with toluene (10 mL). The mixture was concentrated in vacuo and the residue was washed with DCM twice. The DCM extracts were combined and concentrated. The residue was purified by flash chromatography to give the title compound as white solid (10 mg).

reactant | 6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(4,5-difluoro-2-methyl-phenyl) spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.067 mmol, 40 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OC)=O)C1=C(C=C(C(=C1)F)F)C)=O | C30H26Cl2F2N2O5
reactant | P2S5 | 0.20 mmol, 45 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(4,5-difluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one | 10 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OC)=S)C1=C(C=C(C(=C1)F)F)C)=O | C30H26Cl2F2N2O4S
